US04795751
A mixture of ethyl 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (28.2 g) prepared in Referential Example 1 (2), benzylamine (9.8 ml), anhydrous potassium carbonate (23.6 g), and acetonitrile (140 ml) was heated at 100°-110° C. for 1 hour to give ethyl 5-benzylamino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (21.4 g), which was recrystallized from ethanol, m.p. 134°-135° C.

reactant | ethyl 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 28.2 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)OCC | C15H11F4NO3
reactant | benzylamine | 9.8 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 23.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
product | ethyl 5-benzylamino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 21.4 g | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)OCC)=O | C22H19F3N2O3
